US06897225B1
A mixture of N-(tert-butoxycarbonyl)-2-(4-bromobenzyl)proline ethyl ester (3.00 g), LiOH (10 mmol), THF (25 mL), MeOH (10 mL) and H2O (5 mL) was stirred at room temperature overnight. The mixture was then heated at 74° C. overnight. The mixture was concentrated in vacuo, and water was added. The mixture was washed with Et2O and the aqueous layer was made acidic with the addition of 1N H2SO4. The aqueous layer was extracted with EtOAc. The EtOAc layer was washed with brine, dried over Na2SO4, and evaporated to give N-(tert-butoxycarbonyl)-2-(4-bromobenzyl)proline (3.02 g). MS (m/z) 284 (MH+-t-Boc); mp: 143.9° C.

reactant | N-(tert-butoxycarbonyl)-2-(4-bromobenzyl)proline ethyl ester | 3.00 g | C(C)OC([C@]1(N(CCC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)Br)=O | C19H26BrNO4
reactant | LiOH | 10 mmol | [Li+].[OH-]
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | MeOH | 10 mL | CO | CH4O
solvent | H2O | 5 mL | O | H2O
product | N-(tert-butoxycarbonyl)-2-(4-bromobenzyl)proline | 3.02 g | C(C)(C)(C)OC(=O)N1[C@](C(=O)O)(CCC1)CC1=CC=C(C=C1)Br | C17H22BrNO4
